US04581377
In 50 ml of acetic acid was suspended 5.90 grams of 4-(2-fluorenyl)-butan-2-one and 6.35 ml of concentrated nitric acid was dropped in during 45 minutes with stirring at room temperature. After stirring for 3 hours and 30 minutes, crystals separated out therefrom were collected by filtration, washed with small amount of acetic acid, and washed with water until the washing became neutral. The resulting crystals were dissolved in 250 ml of chloroform, dried over magnesium sulfate, and chloroform was evaporated therefrom in vacuo. The residue was recrystallized from benzene to give 3.83 grams of 4-(7-nitro-2-fluorenyl)-butan-2-one, yellow crystals, m.p. 159°-161.5° C.

reactant | 4-(2-fluorenyl)-butan-2-one | 5.90 grams | C1=C(C=CC=2C3=CC=CC=C3CC12)CCC(C)=O | C17H16O
reactant | nitric acid | 6.35 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 4-(7-nitro-2-fluorenyl)-butan-2-one | 3.83 grams | [N+](=O)([O-])C1=CC=C2C=3C=CC(=CC3CC2=C1)CCC(C)=O | C17H15NO3
